US08202866B2
2-(4-Bromo-phenyl)-3-(1-methyl-piperidin-4-yl)-propionic acid methyl ester
To the solution of 2-(4-bromo-phenyl)-3-(1-methyl-piperidin-4-yl)-propionic acid in MeOH (60 mL), SOCl2 (2 mL) was added at 0 degrees Celsius, then the mixture refluxed for 5 h. After cooling, the solution was evaporated to dryness under reduced pressure, then EtOAc was added, the organic layer was washed with aq. NaHCO3, dried with MgSO4, and evaporated to give an oil. MS: calc'd 340 (MH+), exp 340 (MH+).

reactant | 2-(4-bromo-phenyl)-3-(1-methyl-piperidin-4-yl)-propionic acid | BrC1=CC=C(C=C1)C(C(=O)O)CC1CCN(CC1)C | C15H20BrNO2
reactant | MeOH | 60 mL | CO | CH4O
solvent | SOCl2 | 2 mL | O=S(Cl)Cl | Cl2OS
product | 2-(4-Bromo-phenyl)-3-(1-methyl-piperidin-4-yl)-propionic acid methyl ester | COC(C(CC1CCN(CC1)C)C1=CC=C(C=C1)Br)=O | C16H22BrNO2
